US06559174B2
To a sample of N-BOC-1,3-dihydro-1-methyl-2H-isoindole-1-carboxylic acid, methyl ester (0.50 g, 1.7 mmol) was added HCl in dioxane (4 M, 5.0 mL). After stirring at rt for 1 hr, the reaction mixture was concentrated in vacuo, and the residue was triturated with Et2O and was concentrated to dryness to yield 1,3 -dihydro-1-methyl-2H-isoindole-1-carboxylic acid, methyl ester, hydrochloride (0.40 g, 100%) which was used in the subsequent reaction without purification.

reactant | N-BOC-1,3-dihydro-1-methyl-2H-isoindole-1-carboxylic acid, methyl ester | 1.7 mmol, 0.50 g | C(=O)(OC(C)(C)C)N1C(C2=CC=CC=C2C1)(C(=O)OC)C | C16H21NO4
reactant | HCl | Cl | ClH
solvent | dioxane | 4 M, 5.0 mL | O1CCOCC1 | C4H8O2
product | 1,3 -dihydro-1-methyl-2H-isoindole-1-carboxylic acid, methyl ester, hydrochloride | 0.40 g, 100% | Cl.CC1(NCC2=CC=CC=C12)C(=O)OC | InChI=1S/C11H13NO2.ClH/c1-11(10(13)14-2)9-6-4-3-5-8(9)7-12-11;/h3-6,12H,7H2,1-2H3;1H
